.circuit
V1 N005 GND 20
E1 N009 GND N007 GND 10
R1 N007 GND 15
R2 N011 N005 30
R3 N010 N009 5
R4 GND N010 100
I1 N008 N006 10
R5 N004 N005 14
R6 GND N008 10
R7 N006 N004 69
F1 GND N003 V2 3
R8 N003 GND 100
V2 N007 N011 0
H1 N001 GND V2 10
R9 N001 GND 30
G1 GND N002 N004 N005 10
R10 N002 GND 30
.end
